US04234736
17.0 g (83 mmol) of 3-phenyl-5,5-dimethylhydantoin were dissolved in 160 ml of concentrated sulphuric acid and 7.07 g (83 mmol) of sodium nitrate were slowly added with stirring, at 0° C. over a 40 minute period. After the addition was completed, maintained stirring at 0° C. was continued for 20 minutes with the reaction mixture. The mixture was allowed to warm to room temperature and stirring was continued for 4 hours. The mixture was then poured onto ice water and then extracted with methylene chloride. The extract was dried over sodium sulphate. The methylene chloride was evaporated and the resulting product was crystallized from methylene chloride/petroleum ether. The recrystallized product was dried for 16 hours, under greatly reduced pressure, to yield 3-(4-nitrophenyl)-5,5-dimethylhydantoin, m.p. 176°-177° C.

reactant | 3-phenyl-5,5-dimethylhydantoin | 83 mmol, 17.0 g | C1(=CC=CC=C1)N1C(NC(C1=O)(C)C)=O | C11H12N2O2
reactant | sodium nitrate | 83 mmol, 7.07 g | [N+](=O)([O-])[O-].[Na+]
solvent | sulphuric acid | 160 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(4-nitrophenyl)-5,5-dimethylhydantoin | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NC(C1=O)(C)C)=O | C11H11N3O4
